US06627630B1
Production of 6-[2-[2-[4-(Diphenylmethoxy)piperidino]ethoxy]ethylthio]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine Fumarate
1.09 g of 6-[2-(2-bromoethoxy)ethylthio]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine and 840 mg of 4-(diphenylmethoxy)piperidine were dissolved in 10 ml of N,N-dimethylformamide; 520 mg of potassium carbonate was added, followed by stirring at room temperature for 23 hours. Ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with dichloromethane:ethyl acetate:methanol (5:5:1). The desired fraction was collected; the residue was dissolved in 10 ml of ethanol; 200 mg of fumaric acid was added, followed by concentration. Ethyl ether was added to the residue; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 0.78 g of the title compound.

reactant | 6-[2-(2-bromoethoxy)ethylthio]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | 1.09 g | BrCCOCCSC=1C(=CC=2N(N1)N=CN2)C | C10H13BrN4OS
reactant | 4-(diphenylmethoxy)piperidine | 840 mg | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | potassium carbonate | 520 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-[2-[2-[4-(Diphenylmethoxy)piperidino]ethoxy]ethylthio]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine Fumarate | 0.78 g | C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)C(OC1CCN(CC1)CCOCCSC=1C(=CC=2N(N1)N=CN2)C)C2=CC=CC=C2 | InChI=1S/C28H33N5O2S.C4H4O4/c1-22-20-26-29-21-30-33(26)31-28(22)36-19-18-34-17-16-32-14-12-25(13-15-32)35-27(23-8-4-2-5-9-23)24-10-6-3-7-11-24;5-3(6)1-2-4(7)8/h2-11,20-21,25,27H,12-19H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
